US07618961B2
Ethyl (2-{[(2,3,4-trifluorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The tide compound was prepared from ethyl 2-amino-4-thiazolylacetate and 2,3,4-trifluorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (2.3 mg) with purity >90%. MS (pos) m/z 381.4.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 2,3,4-trifluorobenzenesulfonyl chloride | FC1=C(C=CC(=C1F)F)S(=O)(=O)Cl | C6H2ClF3O2S
product | Ethyl (2-{[(2,3,4-trifluorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | 2.3 mg | FC1=C(C=CC(=C1F)F)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C13H11F3N2O4S2
